US05089528
Preparation of methyl 2-(chloromethyl)-phenylglyoxylate
100 g (0.56 mole) of methyl 2-methylphenylglyoxylate in 600 ml of tetrachloromethane are initially taken. The mixture is refluxed with exposure to a 300 W Hg vapor lamp, and 28 g (0.39 mole) of chlorine gas are passed in during this procedure. After a conversion of about 50% (checked by thin layer chromatography), the reaction is terminated, the mixture is evaporated down and the residue is subjected to fractional distillation. The substance is obtained as a yellow oil.

reactant | methyl 2-methylphenylglyoxylate | 0.56 mole, 100 g | CC1=C(C=CC=C1)C(C(=O)OC)=O | C10H10O3
reactant | chlorine | 0.39 mole, 28 g | ClCl | Cl2
solvent | tetrachloromethane | 600 ml | ClC(Cl)(Cl)Cl | CCl4
product | methyl 2-(chloromethyl)-phenylglyoxylate | ClCC1=C(C=CC=C1)C(C(=O)OC)=O | C10H9ClO3
